US04962119
Sodium methoxide (734.0 mg, 13.59 mmol) is added to a solution of 2-[(2,6-dichloro-3-methylphenyl)amino]-benzoic acid, 2-(aminothioxomethyl)-hydrazide (1.466 g, 3.96 mmol) in 60 ml of methanol and the mixture is heated at reflux overnight, under a nitrogen atmosphere. An additional amount of sodium methoxide (702.0 mg, 13.00 mmol) is added and heating at reflux is continued overnight. The volatiles are removed in vacuo and the residue dissolved in water. The aqueous solution is acidified to pH 4-5 with 10% hydrochloric acid. The resultant white solid is collected, dissolved in tetrahydrofuran and chromatographed, eluting with hexane:ethyl acetate (1:2) to give 599.2 mg (43%) of 5-[2-[(2,6-dichloro-3-methylphenyl)amino]phenyl]-2,4-dihydro-3H-1,2,4-triazole-3-thione, mp 300°-305° C.

reactant | Sodium methoxide | 13.59 mmol, 734.0 mg | C[O-].[Na+]
reactant | 2-[(2,6-dichloro-3-methylphenyl)amino]-benzoic acid, 2-(aminothioxomethyl)-hydrazide | 3.96 mmol, 1.466 g | NC(NNC(C1=C(C=CC=C1)NC1=C(C(=CC=C1Cl)C)Cl)=O)=S | C15H14Cl2N4OS
reactant | sodium methoxide | 13.00 mmol, 702.0 mg | C[O-].[Na+]
solvent | methanol | 60 ml | CO | CH4O
product | 5-[2-[(2,6-dichloro-3-methylphenyl)amino]phenyl]-2,4-dihydro-3H-1,2,4-triazole-3-thione | 599.2 mg, 43% | ClC1=C(C(=CC=C1C)Cl)NC1=C(C=CC=C1)C=1NC(NN1)=S | C15H12Cl2N4S
